US08222416B2
To a solution of 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (2.6 g, 9.5 mmol) and triethylamine (2.6 mL, 19 mmol) in tetrahydrofuran (20 mL) was added di-tert-butyl dicarbonate (3.1 g, 14.25 mmol) slowly. The resulting mixture was stirred for 12 h at room temperature. The solvents were removed and the residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, ethyl acetate/hexanes/dichloromethane=1:2:1) to afford (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-carbamic acid tert-butyl ester (2.58 g, 73%): LC/MS m/e calcd for C18H19N3O4S [M+H]+ 374.43, observed 374.1.

reactant | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine | 9.5 mmol, 2.6 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)N | C13H11N3O2S
reactant | triethylamine | 19 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14.25 mmol, 3.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-carbamic acid tert-butyl ester | 2.58 g, 73% | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)=O | C18H19N3O4S
